US03963725
A mixture of 3,4-dihydroxyphenethylamine hydrochloride (1.62 g), (1,2,5-thiadiazol-3-yl)oxyacetaldehyde diethyl acetal (2.6 g), n-butanol (50 ml), water (25 ml) and 10% hydrochloric acid (3 drops) was refluxed for 15 hours. After the reaction, n-butanol was distilled off from the reaction mixture under reduced pressure. The residue was dissolved in water, and the solution was washed twice with chloroform and once with ether and then the aqueous layer was concentrated to give colourless crystals of 1-(1,2,5-thiadiazol-3-yl)oxymethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (2 g). The product was recrystallized from aqueous methanol to give colourless crystals like cotton, mp 252°C (dec.).

reactant | 3,4-dihydroxyphenethylamine hydrochloride | 1.62 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | (1,2,5-thiadiazol-3-yl)oxyacetaldehyde diethyl acetal | 2.6 g | C(C)OC(COC1=NSN=C1)OCC | C8H14N2O3S
reactant | water | 25 ml | O | H2O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | n-butanol | C(CCC)O | C4H10O
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 1-(1,2,5-thiadiazol-3-yl)oxymethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2 g | Cl.S1N=C(C=N1)OCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C12H13N3O3S.ClH/c16-10-3-7-1-2-13-9(8(7)4-11(10)17)6-18-12-5-14-19-15-12;/h3-5,9,13,16-17H,1-2,6H2;1H
